US05973156
a) 5-(4-Pyridyl)pent-4-yn-1-ol
4-Bromopyridine hydrochloride (5 g, 0.031 mol) was partitioned between 2N NaOH (50 ml) and ethyl acetate (250 ml). The organic layer was collected, dried over MgSO4 and evaporated in vacuo. The resulting oil was dissolved in triethylamine (10 ml) and degassed with nitrogen. Pent-4-yn-1-ol (3 g, 0.035 mol) was added, followed by bis(triphenylphosphine)palladium (II) chloride (200 mg) and copper iodide (100 mg). The reaction was heated to reflux and stirred for 15 min. The reaction was partitioned between ethyl acetate (250 ml) and water (50 ml). The organic layer was collected, dried over MgSO4 and evaporated. The residue was chromatographed on silica eluting with ethyl acetate to afford the title compound as a yellow solid (3.14 g). 1H NMR (250 MHz, CDCl3) 1.8 (1H, br s), 1.87 (2H, q), 2.57 (2H, t), 3.81 (2H, br t), 7.24 (2H, dd), 8.78 (2H, dd).

reactant | 4-Bromopyridine hydrochloride | 0.031 mol, 5 g | Cl.BrC1=CC=NC=C1
reactant | NaOH | 2N, 50 ml | [OH-].[Na+]
reactant | Pent-4-yn-1-ol | 0.035 mol, 3 g | C(CCC#C)O | C5H8O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 200 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper iodide | 100 mg | [Cu](I)I
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 5-(4-Pyridyl)pent-4-yn-1-ol | 3.14 g | N1=CC=C(C=C1)C#CCCCO | C10H11NO
